US06528504B2
(R)-5,11-Dihydro-5-[1-[(4-dimethylaminophenyl)ethyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Dihydrochloride
1.0 ml of 4 M hydrochloric acid/ethyl acetate was added to a solution of (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine (196 mg) in dichloromethane (5 ml), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow solid (205 mg, 89%).

reactant | hydrochloric acid ethyl acetate | 4 M, 1.0 ml | Cl.C(C)(=O)OCC
reactant | (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | 196 mg | CN(C1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1)C | C27H31N3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-[(4-dimethylaminophenyl)ethyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Dihydrochloride | Cl.Cl.CN(C1=CC=C(C=C1)CCN1C[C@@H](CC1)N1C2=C(OCC3=C1C=CC=C3)C=CC=C2)C | InChI=1S/C27H31N3O.2ClH/c1-28(2)23-13-11-21(12-14-23)15-17-29-18-16-24(19-29)30-25-8-4-3-7-22(25)20-31-27-10-6-5-9-26(27)30;;/h3-14,24H,15-20H2,1-2H3;2*1H/t24-;;/m1../s1
